2184-06-21 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Finished integrellin and started heparin gtt 5pm
   - CE: CK:2752<--2422 MB:311<--311 MBI:11.3<--12.8 Trop-T:4.84<--4.89
   - plan for TTE and balloon pump removal tomorrow
   - I/O (goal -1L). Pt given 20mg IV lasix this AM, 1700 (-959cc), 2200
   (-779cc)
   - Pt went into a-fib w/ RVR HR 120-140's, stable BP, asx. Gave 5mg IV
   lopressor and 25mg metoprolol (changed from [**Hospital1 **] to TID). Reverted back
   into sinus --> then went into a-flutter with rates 120-140. Gave 10mg
   dilt, BP declined to SBP 70-90's. Rate slightly improved to 100-120 -->
   returned to sinus around 6am
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2184-6-20**] 10:42 AM
   Metoprolol - [**2184-6-21**] 01:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-21**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 71 (69 - 130) bpm
   BP: 128/56(92) {82/37(62) - 128/82(94)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,729 mL
                                                                    407 mL
   PO:
                                                                    500 mL
                                                                    260 mL
   TF:
   IVF:
                                                                  1,229 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    550 mL
   Urine:
                                                                  2,030 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -901 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   GENERAL: Well appearing caucasian female, NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple without elevation of JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: DP/PT dopplerable bilaterally
   Labs / Radiology
   239 K/uL
   11.9 g/dL
   116 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   20 mg/dL
   98 mEq/L
   134 mEq/L
   33.6 %
   13.7 K/uL
        [image002.jpg]
                             [**2184-6-20**]  01:00 AM
                             [**2184-6-20**]  08:40 AM
                             [**2184-6-20**]  11:00 PM
   WBC
   20.2
   15.9
   13.7
   Hct
   43.2
   38.7
   33.6
   Plt
   [**Telephone/Fax (3) 9379**]
   Cr
   1.1
   1.0
   1.1
   TropT
   4.89
   4.84
   2.51
   Glucose
   167
   124
   116
   Other labs: PT / PTT / INR:13.9/35.2/1.2, CK / CKMB /
   Troponin-T:1116/69/2.51, ALT / AST:42/122, Alk Phos / T Bili:67/1.0,
   LDH:728 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   This is a 71 year old female with a history of MVR, AFib, and CAD who
   presented to the ED with chest pain and found to be having anterior
   STEMI requiring BMS to LAD and placement of IABP post procedure.
   .
   CORONARIES: s/p anterior STEMI and s/p BMS to LAD. IABP placed given
   significantly anterior wall motion abnormalities noted during cath.
   Patient currently hemodynamically stable and chest pain free.  Finished
   on integrillin and started heparin gtt
   - cont  heparin gtt
   - cont plavix 75mg daily
   - cont ASA 325 mg daily
   - start atorvastatin 80 mg daily
   - cont metoprolol 37.5mg [**Hospital1 **]
   - plan for removal of IABP today, will need post-shealth removal check
   - ECHO today
   - monitor on CCU telemetry
   .
   PUMP: As noted above, anterior all motion abnormalities noted during
   cath. Right heart revealed wedge pressures in 30's. She was given 10mg
   IV lasix in the cath lab and a IABP placed.  She was given additional
   20mg IV lasix yesterday. Negative 900cc. Patient currently appears
   euvolemic.
   - IABP removal today
   - ECHO in am
   - monitor I/O's with goal -500 cc
   - cont BB
   .
   RHYTHM: Currently in sinus rhythm. Pt has a hx of PAF (not on coumadin
   due to pt insistence). Pt with episode of A-fib w/ RVR overnight that
   resolved to sinus after lopessor, then went into a-flutter w/ RVR and
   given dilt.  She reverted to sinus this AM.
   - cont metoprolol 37.5mg TID
   - monitor on telemetry
   - consider EP input regarding a-flutter
   - cont ASA and Plavix
   - Gather OSH information to better understand whether pt requires
   anticoagulation
   - if goes back into Afib will conisder amio
   - if EF < 35% will strongly consider coumadin
   .
   HEMOPTYSIS: Patient with  episode of hemoptysis . She has never
   experienced this before in the past. Hct currently stable. Likely
   exacerbated by heparin gtt
   - monitor resp status
   - follow Hct
   .
   BRBPR: Patient has noted BRBPR in the past but never any gross lower GI
   bleeding. One of the reasons she has stopped taking ASA consistently is
   because she associates ASA with these episodes of BRBPR. Patient has
   never had a colonoscopy
   - guiac stools
   - monitor Hct
   - Suggest outpatient colonoscopy and GI follow-up
   .
   .
   .
   FEN: HH, replete lytes PRN
   ACCESS: PIV's, 8F sheath x 2
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with percocet (patient denies any allergy to this
   medication which she is listed as allergic to in OMR)
   -Bowel regimen with docusate and senna
   CODE: FULL (confirmed with patient)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   IABP line - [**2184-6-20**] 02:13 AM
   Cordis/Introducer - [**2184-6-20**] 02:15 AM
   18 Gauge - [**2184-6-20**] 02:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   Comfortable.  No CP.
   10 hrs of AFIB/aflutter but now back in NSR.
   Peak CK 2752.
   Physical Examination
   IABP in with doppler pulses.
   Chest clear.
   No murmurs.
   Medical Decision Making
   Check echo.
   D/C IABP.
   Amio if recurrent AF.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2184-6-21**] 10:57 ------

2184-06-22 06:42:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: None. Resting comfortably in chair.
   24 Hour Events:
   [**6-21**]:
   - TTE: There is moderate regional left ventricular systolic dysfunction
   with severe hypokinesis of the distal 2/3rds of the anterior septum and
   mild hypokinesis of the anterior wall and apex. The remaining segments
   contract normally (LVEF = 35-40 %). The diameters of aorta at the
   sinus, ascending and arch levels are normal
   - starting coumadin in AM
   - d/c'd IABP
   - d/c'd hep gtt
   - groin check good
   - pt had hemoptysis, hct stable 32.5, put in for PA/Lat in AM
   - pt spiked low-grade T100.7 Pancx (urine, blood) + PA/Lat CXR
 EKG - At [**2184-6-21**] 08:35 AM
 TRANSTHORACIC ECHO - At [**2184-6-21**] 09:35 AM
 IABP LINE - STOP [**2184-6-21**] 12:15 PM
 CORDIS/INTRODUCER - STOP [**2184-6-21**] 12:15 PM
   Allergies:
   Aspartame
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 88 (62 - 88) bpm
   BP: 111/70(75) {87/36(50) - 118/70(79)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  1,626 mL
                  PO:
                                                                  1,340 mL
                  TF:
   IVF:
                                                                    286 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    580 mL
   Urine:
                                                                  1,710 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GENERAL: Well appearing caucasian female, NAD. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple without elevation of JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.  Pt hemoptysis is increasing sputum vs. blood in consistency
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: DP/PT dopplerable bilaterally
   Labs / Radiology
   269 K/uL
   11.7 g/dL
   122 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.2 mEq/L
   18 mg/dL
   100 mEq/L
   136 mEq/L
   32.5 %
   15.8 K/uL
                             [**2184-6-20**]  01:00 AM
                             [**2184-6-20**]  08:40 AM
                             [**2184-6-20**]  11:00 PM
                             [**2184-6-21**]  08:40 AM
                             [**2184-6-21**]  05:32 PM
   WBC
   20.2
   15.9
   13.7
   15.8
   Hct
   43.2
   38.7
   33.6
   33.5
   32.5
   Plt
   [**Telephone/Fax (3) 9390**]69
   Cr
   1.1
   1.0
   1.1
   1.0
   TropT
   4.89
   4.84
   2.51
   2.53
   Glucose
   167
   124
   116
   122
   Other labs: PT / PTT / INR:13.6/43.2/1.2, CK / CKMB /
   Troponin-T:664/29/2.53, ALT / AST:42/122, Alk Phos / T Bili:67/1.0,
   LDH:728 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HEMOPTYSIS
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
   This is a 71 year old female with a history of MVR, AFib, and CAD who
   presented to the ED with chest pain and found to be having anterior
   STEMI requiring BMS to LAD and placement of IABP post procedure.
   .
   CORONARIES: s/p anterior STEMI and s/p BMS to LAD. Patient currently
   hemodynamically stable and chest pain free.  Finished on integrillin
   and started heparin gtt; heparin dc
d [**2184-6-21**]. IABP dc
   - cont plavix 75mg daily
   - cont ASA 325 mg daily
   - start atorvastatin 80 mg daily
   - cont metoprolol 37.5mg [**Hospital1 **]
   - start ACE-I today
   - monitor on CCU telemetry
   .
   PUMP: As noted above, anterior wall motion abnormalities noted during
   cath. Currently negative 84cc, still with crackles at lung bases. Will
   continue gentle diuresis.
   - monitor I/O's with goal -500 cc
   - cont BB, lasix
   .
   RHYTHM: Currently in sinus rhythm. Pt has a hx of PAF (not on coumadin
   at home due to pt insistence). Pt with episode of A-fib w/ RVR
   overnight 06/21-22/09 that resolved to sinus after lopessor, then went
   into a-flutter w/ RVR and given dilt.  She reverted to sinus the
   morning of [**2184-6-21**] and has remained in NSR since then.
   - cont metoprolol 37.5mg TID
   - monitor on telemetry
   - consider EP input regarding a-flutter
   - cont ASA and Plavix
   - if goes back into Afib will conisder amio
   - Holding coumadin today pending echo read, given bleeding diathesis
   .
   HEMOPTYSIS: Patient with  episode of hemoptysis . She has never
   experienced this before in the past. Hct currently stable. Likely
   exacerbated by heparin gtt and related to pulmonary edema in setting of
   high wedge pressures.
   - monitor resp status
   - follow Hct
   .
   BRBPR: Patient has noted BRBPR in the past but never any gross lower GI
   bleeding. One of the reasons she has stopped taking ASA consistently is
   because she associates ASA with these episodes of BRBPR. Patient has
   never had a colonoscopy
   - guiac stools
   - monitor Hct, currently stable
   - Suggest outpatient colonoscopy and GI follow-up
   .
   FEN: HH, replete lytes PRN
   ACCESS: PIV's, 8F sheath x 2
   PROPHYLAXIS:
   -Pain management with percocet (patient denies any allergy to this
   medication which she is listed as allergic to in OMR)
   -Bowel regimen with docusate and senna
   CODE: FULL (confirmed with patient)
   DISPO: To floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-20**] 02:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **], Harish.
   I would add the following remarks:
   History
   IABP out yesterday.   No CP, no SOB.
   EF 35% on echo.
   Low grade temp, WBC 15.8.
   Blood tinged sputum,  small BRBPR.
   Physical Examination
   chest with few bibasilar rales.
   Medical Decision Making
   Lasix 20 for gentle diuresis.
   Add ACE as tolerated.
   Would not add coumadin in view of bleeding risk esp on ASA and plavix.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2184-6-22**] 11:30 ------

2184-06-23 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Chest pain
   24 Hour Events:
   [**6-23**]:
   - Alternating sinus w/ afib this morning, BP stable throughout.
   - Then had 20 minutes of flutter at HR 120, converted back with Ativan
   for anxiety. Given morning Lopressor at 6am.
   - Blood and ultures all pending
   [**6-22**]:
   - Low grade fever (100.7), pancx'd and PA/Lat ordered (UA neg for UTI)
   - Recurrent episodes of aflutter/afib today. Started on Amio, coumadin;
   cont beta blocker. Plan to continue IV Amio x 24 hours then transition
   to oral maintenance dose.
   - Started on ACE-I for ant [**Month/Year (2) **]
   - Given Lasix for fluid overload on CXR, balance -1.4L @8pm.
   Allergies:
   Aspartame
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2184-6-22**] 12:30 PM
   Heparin Sodium - [**2184-6-22**] 11:00 PM
   Lorazepam (Ativan) - [**2184-6-23**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 77 (64 - 129) bpm
   BP: 117/59(73) {84/29(54) - 120/82(86)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,388 mL
                                                                    425 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    308 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                    350 mL
   Urine:
                                                                  3,230 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,842 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   GENERAL: Well appearing caucasian female, NAD. Oriented x3. Elevated
   mood after receiving ativan.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple without elevation of JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.  Pt hemoptysis is increasing sputum vs. blood in consistency
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: DP/PT dopplerable bilaterally
   Labs / Radiology
   291 K/uL
   10.7
   125 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   19 mg/dL
   98 mEq/L
   136 mEq/L
   30.6 %
   14.0 K/uL
         [image002.jpg]
                             [**2184-6-20**]  01:00 AM
                             [**2184-6-20**]  08:40 AM
                             [**2184-6-20**]  11:00 PM
                             [**2184-6-21**]  08:40 AM
                             [**2184-6-21**]  05:32 PM
                             [**2184-6-22**]  06:23 AM
                             [**2184-6-23**]  05:11 AM
                             [**2184-6-23**]  06:56 AM
   WBC
   20.2
   15.9
   13.7
   15.8
   12.4
   20.4
   14.0
   Hct
   43.2
   38.7
   33.6
   33.5
   32.5
   32.0
   23.5
   30.6
   Plt
   [**Telephone/Fax (2) 9404**]
   291
   Cr
   1.1
   1.0
   1.1
   1.0
   0.8
   0.9
   TropT
   4.89
   4.84
   2.51
   2.53
   Glucose
   167
   124
   116
   122
   108
   125
   Other labs: PT / PTT / INR:13.2/37.1/1.1, CK / CKMB /
   Troponin-T:664/29/2.53, ALT / AST:42/122, Alk Phos / T Bili:67/1.0,
   LDH:728 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 71 year old female with a history of MVR, AFib, and CAD who
   presented to the ED with chest pain and found to be having anterior
   [**Telephone/Fax (2) **] requiring BMS to LAD and placement of IABP post procedure.
   .
   CORONARIES: s/p anterior [**Telephone/Fax (2) **] and s/p BMS to LAD. Patient currently
   hemodynamically stable and chest pain free.  Finished on integrillin
   and started heparin gtt; heparin dc
d [**2184-6-21**], then restarted [**2184-6-22**]
   for hypokenesis.
   - cont plavix 75mg daily
   - cont ASA 325 mg daily
   - start atorvastatin 80 mg daily
   - cont metoprolol 25mg TID
   - cont lisinopril 2.5mg daily
   - monitor on CCU telemetry
   .
   PUMP: As noted above, anterior wall motion abnormalities noted during
   cath. Currently negative 84cc, crackles improved with gentle diuresis
   but still requiring low flow oxygen.
   - monitor I/O's with goal net negative -1L today
   - cont BB
   - Continue daily lasix; prn lasix as needed to meet I/O goal
   .
   RHYTHM: Currently in sinus rhythm.  Due to a.fib yesterday she was
   loaded on amiodarone and converted back to sinus rhythm.  Overnight
   [**6-22**] had several brief episodes of a.fib at slower rhythms and then 30
   minutes when she first woke up of atrial flutter w/ HR in the 120s that
   resolved with Ativan to calm her.  Started on Amio gtt for recurrent
   Afib yesterday as well as Heparin drip with transition to coumadin for
   anticoagulation.
   - Transition to PO Amiodarone 400mg po BID x 1 week starting today
   given completion of 24 hour IV load this afternoon, then 200mg po daily
   thereafter
   - cont metoprolol 25mg TID
   - monitor on telemetry
   - consider EP input regarding a-flutter; though no plans for flutter
   ablation at the moment given recent [**Name (NI) **]
   - cont ASA and Plavix
   - continue warfarin 2.5mg QD.
   .
   HEMOPTYSIS: Patient with episode of hemoptysis . She has never
   experienced this before in the past. Hct currently stable.  Has been
   decreasing in quantity, but needs to be monitored closely while
   starting warfarin.
   - monitor resp status
   - follow Hct
   .
   BRBPR: Patient has noted BRBPR in the past but never any gross lower GI
   bleeding. One of the reasons she has stopped taking ASA consistently is
   because she associates ASA with these episodes of BRBPR. Patient has
   never had a colonoscopy
   - guiac stools
   - monitor Hct, currently stable
   - Suggest outpatient colonoscopy and GI follow-up
   .
   FEN: HH, replete lytes PRN
   ACCESS: PIV's, 8F sheath x 2
   PROPHYLAXIS:
   -Pain management with percocet (patient denies any allergy to this
   medication which she is listed as allergic to in OMR)
   -Bowel regimen with docusate and senna
   CODE: FULL
   DISPO: To floor today given sinus rhythm
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-20**] 02:16 AM
   20 Gauge - [**2184-6-22**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   Low grade temp 100.7.
   Loaded on amio for recurrent aflutter/afib and back in afib this AM.
   Negative 1.7 L after lasix 20.
   SBP borderline 90 so lisinopril held but getting Lopressor 25 tid.
   On heparin and coumadin.
   Physical Examination
   comfortable
   Medical Decision Making
   Will give additional iv amiodarone.
   Decr lisinopril to 2.5 daily.
   Continue diuresis.
   Focus on controlling atrial arrythmias with consideration of Aflutter
   ablation in future.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 4943**], MD
   on:[**2184-6-23**] 13:49 ------

2184-06-24 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**6-23**]:
   - Alternating sinus w/ afib this morning, BP stable throughout. Then
   had 20 minutes of flutter at HR 120, converted back with Ativan for
   anxiety. Given morning Lopressor at 6am.
   - NSR <-> Afib <-> Aflutter throughout AM/afternoon. Given Amio 150
   bolus. EP consult called. Rec'd hold coumadin + NPO after MN for
   ablation on [**6-24**]. EP to come see pt in AM. Pt's metoprolol increased to
   50mg TID.
   - Continuing diurese w/ goal -2L, given Lasix 40 IV in PM
   Allergies:
   Aspartame
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2184-6-23**] 08:00 AM
   Furosemide (Lasix) - [**2184-6-23**] 11:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-24**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 121 (62 - 128) bpm
   BP: 121/66(80) {84/45(59) - 126/75(88)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,394 mL
                                                                    266 mL
   PO:
                                                                    840 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    554 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    500 mL
   Urine:
                                                                  1,650 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -256 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Well appearing caucasian female, NAD. Oriented x3. Elevated
   mood after receiving ativan.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple without elevation of JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.  Pt hemoptysis is increasing sputum vs. blood in consistency
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: DP/PT dopplerable bilaterally
   Labs / Radiology
   291 K/uL
   10.7 g/dL
   175 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.5 mEq/L
   18 mg/dL
   99 mEq/L
   134 mEq/L
   30.6 %
   14.0 K/uL
        [image002.jpg]
                             [**2184-6-20**]  01:00 AM
                             [**2184-6-20**]  08:40 AM
                             [**2184-6-20**]  11:00 PM
                             [**2184-6-21**]  08:40 AM
                             [**2184-6-21**]  05:32 PM
                             [**2184-6-22**]  06:23 AM
                             [**2184-6-23**]  05:11 AM
                             [**2184-6-23**]  06:56 AM
   WBC
   20.2
   15.9
   13.7
   15.8
   12.4
   20.4
   14.0
   Hct
   43.2
   38.7
   33.6
   33.5
   32.5
   32.0
   23.5
   30.6
   Plt
   [**Telephone/Fax (2) 9404**]
   291
   Cr
   1.1
   1.0
   1.1
   1.0
   0.8
   0.9
   0.9
   TropT
   4.89
   4.84
   2.51
   2.53
   Glucose
   167
   124
   116
   122
   108
   125
   175
   Other labs: PT / PTT / INR:13.2/38.1/1.1, CK / CKMB /
   Troponin-T:664/29/2.53, ALT / AST:42/122, Alk Phos / T Bili:67/1.0,
   LDH:728 IU/L, Ca++:10.1 mg/dL, Mg++:2.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 71 year old female with a history of MVR, AFib, and CAD who
   presented to the ED with chest pain and found to be having anterior
   STEMI requiring BMS to LAD and placement of IABP post procedure.
   .
   CORONARIES: s/p anterior STEMI and s/p BMS to LAD. Patient currently
   hemodynamically stable and chest pain free.  Finished on integrillin
   and started heparin gtt; heparin dc
d [**2184-6-21**], then restarted [**2184-6-22**]
   for hypokenesis.
   - cont plavix 75mg daily
   - cont ASA 325 mg daily
   - start atorvastatin 80 mg daily
   - cont metoprolol 50mg TID
   - cont lisinopril 2.5mg daily
   - monitor on CCU telemetry
   .
   PUMP: As noted above, anterior wall motion abnormalities noted during
   cath. Currently negative 84cc, crackles improved with gentle diuresis
   but still requiring low flow oxygen.
   - monitor I/O's
   - cont BB
   - Continue daily lasix; prn lasix as needed to meet I/O goal
   .
   RHYTHM: Currently in sinus rhythm.  Due to a.fib yesterday she was
   loaded on amiodarone and converted back to sinus rhythm.  Overnight
   [**6-22**] had several brief episodes of a.fib at slower rhythms and then 30
   minutes when she first woke up of atrial flutter w/ HR in the 120s that
   resolved with Ativan to calm her.  Started on Amio gtt for recurrent
   Afib yesterday as well as Heparin drip with transition to coumadin for
   anticoagulation.
   - Transition to PO Amiodarone 400mg po BID x 1 week starting today
   given completion of 24 hour IV load this afternoon, then 200mg po daily
   thereafter
   - cont metoprolol 50mg TID
   - monitor on telemetry
   - EP plans for ablation today
   - cont ASA and Plavix
   - held warfarin 2.5mg QD O/N for ablation.
   .
   HEMOPTYSIS: Patient with episode of hemoptysis . She has never
   experienced this before in the past. Hct currently stable.  Has been
   decreasing in quantity, but needs to be monitored closely while
   starting warfarin.
   - monitor resp status
   - follow Hct
   .
   BRBPR: Patient has noted BRBPR in the past but never any gross lower GI
   bleeding. One of the reasons she has stopped taking ASA consistently is
   because she associates ASA with these episodes of BRBPR. Patient has
   never had a colonoscopy
   - guiaic stools
   - monitor Hct, currently stable
   - Suggest outpatient colonoscopy and GI follow-up
   .
   FEN: HH, replete lytes PRN
   ACCESS: PIV's, 8F sheath x 2
   PROPHYLAXIS:
   -Pain management with percocet (patient denies any allergy to this
   medication which she is listed as allergic to in OMR)
   -Bowel regimen with docusate and senna
   CODE: FULL
   DISPO: To floor today given sinus rhythm
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-23**] 12:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: